US04214097
1. Preparation of 1,1-diethoxy-1-(3-methyl-2-buten-1-yloxy)ethane
A mixture of 4.3 g of 3-methyl-2-buten-1-ol and 16.2 of ethyl orthoacetate was heated with stirring. The temperature was raised slowly over 2 hours to 120°, during which time 1.8 g of ethanol was evolved and removed. Heating was continued at 120° for 30 minutes and the reaction mixture was then distilled to give, after removal of 8.5 g of unreacted ethyl orthoacetate (b.p. 50°-65°/57 mm), 4.25 g of 1,1-diethoxy-1-(3-methyl-2-buten-1-yloxy)ethane, b.p. 75°-76°/6 mm.

reactant | 3-methyl-2-buten-1-ol | 4.3 g | CC(=CCO)C | C5H10O
reactant | ethyl orthoacetate | C(C)(OCC)([O-])[O-]
reactant | ethanol | 1.8 g | C(C)O | C2H6O
product | 1,1-diethoxy-1-(3-methyl-2-buten-1-yloxy)ethane | C(C)OC(C)(OCC=C(C)C)OCC | C11H22O3
